US04661495
(a) Synthesis of 5-benzoylamino-8-guanidino-4-oxo-2-phenylmethyloctanoic acid
Arphamenine A hydrochloride (200 mg) was dissolved in 1 ml of water, and to the resulting solution were added 98 μl of benzoyl chloride and 119 mg of sodium carbonate, each in 1/5 portions at 30 minutes-interval and totally five times, under ice-cooling and stirring. After the reaction was completed, the reaction mixture was adjusted to pH 7.0 with 1N HCl, followed by addition of ethyl ether thereto. The precipitate as formed was washed with water and dried to give 225 mg of the titled compound as a colorless powder. This product gave a value of m/z 425 (MH+) in mass spectrometry.

reactant | Arphamenine A hydrochloride | 200 mg | C1=CC=C(C=C1)C[C@H](CC(=O)[C@H](CCCN=C(N)N)N)C(=O)O.Cl
reactant | benzoyl chloride | 98 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium carbonate | 119 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | water | 1 ml | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 5-benzoylamino-8-guanidino-4-oxo-2-phenylmethyloctanoic acid | 225 mg | C(C1=CC=CC=C1)(=O)NC(C(CC(C(=O)O)CC1=CC=CC=C1)=O)CCCNC(=N)N | C23H28N4O4
